US05086055
1-(3-Ethylphenyl)Piperazine Monohydrochloride
A solution of 73.3 g (0.411 mol) of bis(2-chloroethyl)amine hydrochloride and 49.7 g (0.411 mol) of 3-ethylaniline in 500 mL of absolute ethanol was heated at reflux for 16 h under a nitrogen atmosphere. The mixture was cooled and 85.2 g (0.617 mol) of anhydrous potassium carbonate was added and heating was continued for 16 h. The hot mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was triturated with ethyl acetate to yield 65.7 g (71%) of solid. A portion of this crude product was recrystallized from 2-propanol to yield a white crystalline solid, mp 194°-195° C.

reactant | bis(2-chloroethyl)amine hydrochloride | 0.411 mol, 73.3 g | Cl.ClCCNCCCl
reactant | 3-ethylaniline | 0.411 mol, 49.7 g | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | potassium carbonate | 0.617 mol, 85.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 1-(3-Ethylphenyl)Piperazine Monohydrochloride | 65.7 g, 71% | Cl.C(C)C=1C=C(C=CC1)N1CCNCC1 | InChI=1S/C12H18N2.ClH/c1-2-11-4-3-5-12(10-11)14-8-6-13-7-9-14;/h3-5,10,13H,2,6-9H2,1H3;1H
